US07361675B2
In 8 ml of chloroform, 360 mg of 3-methylthio-5-(3-fluorophenyl)-1,2,4-thiadiazole was dissolved, to the resulting solution was added 982 mg of 3-chloroperoxybenzoic acid (65%<) with ice-cooling, and the mixture was stirred at room temperature for 7 hours. The reaction mixture was poured into an aqueous sodium sulfite solution, and the layers were separated. The organic layer was washed with an aqueous sodium bicarbonate solution, dried over anhydrous sodium sulfate, and concentrated to obtain 520 mg of 3-methylsulfonyl-5-(3-fluorophenyl)-1,2,4-thiadiazole.

reactant | 3-methylthio-5-(3-fluorophenyl)-1,2,4-thiadiazole | 360 mg | CSC1=NSC(=N1)C1=CC(=CC=C1)F | C9H7FN2S2
reactant | 3-chloroperoxybenzoic acid | 982 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 8 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-methylsulfonyl-5-(3-fluorophenyl)-1,2,4-thiadiazole | 520 mg | CS(=O)(=O)C1=NSC(=N1)C1=CC(=CC=C1)F | C9H7FN2O2S2
